US04317917
Using the method of example 1, 15.24 g of 2-hydroxy-4-methylbenzoic acid (0.1 moles), 40.251 g of 3-phenyl-2-propen-1-ol (0.3 moles) and 4.9 g of anhydrous phosphoric acid (0.05 moles) give 23.9 g (89% yield) of (3-phenyl-2-propenyl)-2-hydroxy-4-methylbenzoate, m.p. 196°14 196.5° C.

reactant | 2-hydroxy-4-methylbenzoic acid | 0.1 moles, 15.24 g | OC1=C(C(=O)O)C=CC(=C1)C | C8H8O3
reactant | 3-phenyl-2-propen-1-ol | 0.3 moles, 40.251 g | C1(=CC=CC=C1)C=CCO | C9H10O
reactant | phosphoric acid | 0.05 moles, 4.9 g | P(O)(O)(O)=O | H3O4P
product | (3-phenyl-2-propenyl)-2-hydroxy-4-methylbenzoate | 23.9 g, 89% yield | C1(=CC=CC=C1)C=CCOC(C1=C(C=C(C=C1)C)O)=O | C17H16O3
